US08138181B2
Step 2D: Preparation of 8-bromo-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline:
A mixture of 2,8-dibromoquinoline (22.4 g, 78.0 mmol), 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine (15.0 g, 78.0 mmol), Pd(PPh3)4 (4.51 g, 3.90 mmol), K2CO3 (21.6 g, 156 mmol) and Pd(OAc)2 (0.876 g, 3.90 mmol), dioxane (312 mL) and water (3 ml) was heated to 100° C. for 18 hours. The resulting mixture was diluted with dichloromethane (500 ml) and filtered. The filtrate was concentrated under reduced pressure and to the resulting oil was added ethyl acetate (100 ml) and methyl tert-butyl ether (100 ml). The resulting mixture was stirred overnight. Filtration to collect the resulting solids yielded the title compound (22.2 g, 72% yield). MS ESI (+) m/z 398 and 400 (M+1 of each isotope) detected.

reactant | 2,8-dibromoquinoline | 78.0 mmol, 22.4 g | BrC1=NC2=C(C=CC=C2C=C1)Br | C9H5Br2N
reactant | 7-(2-methoxyethoxy)imidazo[1,2-a]pyridine | 78.0 mmol, 15.0 g | COCCOC1=CC=2N(C=C1)C=CN2 | C10H12N2O2
reactant | K2CO3 | 156 mmol, 21.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 312 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 3.90 mmol, 4.51 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(OAc)2 | 3.90 mmol, 0.876 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 3 ml | O | H2O
product | 8-bromo-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline | 22.2 g, 72% yield | BrC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | C19H16BrN3O2
